US06686347B2
4a) Phthalazin-1(2H)-one-4-carboxylic acid
A mixture of 400 g (3.12 mol) naphthalene and 96.05 g (0.695 mol) K2CO3 in 6.66 l water is heated to 60° C. A 75° C. solution of 2480 g (15.69 mol) KMnO4 in 13.30 l water is added dropwise with occasional cooling (70° C.). Stirring is continued without heating until the exothermy subsides (about 2 h) and heating is then resumed for 5 h to 80° C. After cooling to RT, the mixture is filtered through Celite and the residue washed with water. To the slightly yellow, clear filtrate, 288 g (2.21 mol) hydrazine sulfate is added and the mixture heated for 2 h to 70° C. The cooled reaction solution is adjusted to pH 1 with conc. HCl solution, at which the product precipitates out. Cooling to 15° C., filtration via a nutsch filter and washing with water yield the title compound, m.p. 256-257° C.; 1H-NMR (DMSO-d6) 8.57 (d, 1H), 8.30 (d, 1H), 7.95 (m, 2H); FAB-MS (M+H)+=191.

reactant | naphthalene | 3.12 mol, 400 g | C1=CC=CC2=CC=CC=C12 | C10H8
reactant | K2CO3 | 0.695 mol, 96.05 g | C(=O)([O-])[O-].[K+].[K+]
reactant | KMnO4 | 15.69 mol, 2480 g | [O-][Mn](=O)(=O)=O.[K+]
reactant | hydrazine sulfate | 2.21 mol, 288 g | S(=O)(=O)(O)O.NN
reactant | HCl | Cl | ClH
solvent | water | 6.66 l | O | H2O
solvent | water | 13.30 l | O | H2O
product | Phthalazin-1(2H)-one-4-carboxylic acid | C1(NN=C(C2=CC=CC=C12)C(=O)O)=O | C9H6N2O3
